US06660744B1
Salicylaldehyde (0.033 g, 0.000274 mol) and trans-3-(4-amino-3-chlorophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.115 g, 0.000261 mol) were combined in absolute ethanol and stirred at ambient temperature for 48 hours. The reaction mixture was concentrated under reduced pressure and the residue dried overnight to yield trans-2-[(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-chlorophenyl)imino]methylphenol which was used without further purification. Trimethylsulfoxonium iodide (0.110 g, 0.0005 mol) was dissolved in anhydrous dimethylsulfoxide (2 mL) and 60% dispersion of sodium hydride in paraffine (0.02 g, 0005 mol) was added at once. After 10 min., the solution of trans-2-[(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-chlorophenyl)imino]methylphenol in anhydrous dimethylsulfoxide (2 mL) was added and the resulting mixture was stirred at ambient temperature under an atmosphere of nitrogen for 2.5 hours. The solution was poured into ice-cold water (50 mL) and extracted with dichloromethane (2×40 mL). The combined organic extracts were dried with magnesium sulfate and concentrated under reduced pressure. The residue was purified by preparative HPLC (Hypersil C18, 8 μm, 25 cm; 10-60% acetonitrile-0.1M ammonium acetate over 25 min, 21 mL/min) to yield trans-3-[3-chloro-4-(2,3-dihydrobenzo[b]furan-3-ylamino)phenyl]-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine acetate (0.044 g, 0.000071 mol) as a white solid.

reactant | Trimethylsulfoxonium iodide | 0.0005 mol, 0.110 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | [H-].[Na+]
reactant | trans-2-[(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-chlorophenyl)imino]methylphenol | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)N=CC2=C(C=CC=C2)O)Cl)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C29H33ClN8O
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
product | trans-3-[3-chloro-4-(2,3-dihydrobenzo[b]furan-3-ylamino)phenyl]-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine acetate | 0.000071 mol, 0.044 g | C(C)(=O)O.ClC=1C=C(C=CC1NC1C2=C(OC1)C=CC=C2)C2=NN(C1=NC=NC(=C12)N)[C@@H]1CC[C@H](CC1)N1CCN(CC1)C | InChI=1S/C30H35ClN8O.C2H4O2/c1-37-12-14-38(15-13-37)20-7-9-21(10-8-20)39-30-27(29(32)33-18-34-30)28(36-39)19-6-11-24(23(31)16-19)35-25-17-40-26-5-3-2-4-22(25)26;1-2(3)4/h2-6,11,16,18,20-21,25,35H,7-10,12-15,17H2,1H3,(H2,32,33,34);1H3,(H,3,4)/t20-,21-,25?;
